US06974802B2
c) 4-(2-N-benzyloxycarbonyl-L-valyloxyethoxy)-benzoic acid.
To a solution of 4-methoxybenzyl 4-(2-N-benzyloxycarbonyl-L-valyloxyethoxy) benzoate (10.2 g, 19.04 mmole) in dichloromethane (100 ml) was added trifluoroacetic acid (20 ml) and the mixture was stirred 3 hours at room temperature. The solution was evaporated under reduced pressure and co-evaporated two times with toluene. The product was isolated by silica gel column chromatography. Yield: 6.9 g=87%. The product may be activated and esterified direct to a drug or converted to iodomethyl 4-(2-N-benzyloxycarbonyl-L-valyloxyethoxy)-benzoic acid as described above, that is by treatment with a base, chloroiodomethane, separation and then treatment with NaI.

reactant | trifluoroacetic acid | 20 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | iodomethyl 4-(2-N-benzyloxycarbonyl-L-valyloxyethoxy)-benzoic acid | ICC1=C(C(=O)O)C=CC(=C1)OCCOC([C@@H](NC(=O)OCC1=CC=CC=C1)C(C)C)=O | C23H26INO7
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 4-(2-N-benzyloxycarbonyl-L-valyloxyethoxy)-benzoic acid | C(C1=CC=CC=C1)OC(=O)N[C@@H](C(C)C)C(=O)OCCOC1=CC=C(C(=O)O)C=C1 | C22H25NO7
